US03984465
(1-Oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanylthio)acetic acid is prepared following substantially the same procedure described in Example 10, Step F, using the following substances: 2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloro-1-indanone (3.47 g., 0.01 mole), DMF (40 ml.), potassium carbonate (2.78 g., 0.02 mole) and ethyl bromoacetate (2.9 g., 0.02 mole).

reactant | 2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloro-1-indanone | 0.01 mole, 3.47 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)S)Cl)Cl)=O)C | C15H16Cl2OS
reactant | potassium carbonate | 0.02 mole, 2.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.02 mole, 2.9 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | (1-Oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanylthio)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)SCC(=O)O)(C)C1CCCC1 | C17H18Cl2O3S
